US06872720B2
d) Toluene-4-sulfonic acid 7-(2-fluorophenyl)-4-methylpyrazolo[1,5-d][1,2,4]triazin-2-yl ester
A mixture of toluene-4-sulfonic acid 5-acetyl-1H-pyrazol-3-yl ester (2.52 g, 8.99 mmol) and 2-fluorobenzhydrazide (1.53 g, 9.90 mmol) in xylene (110 ml) was heated at reflux for 17 h under nitrogen. The solvent was removed in vacuo, and the residue was heated in Dowtherm A at 180° C. for 18 h The mixture was poured directly onto a column of silica gel, which was eluted with dichloromethane, then 25% EtOAc/CH2Cl2, to give 3.40 g (95%) of the title compound as a brown solid: 1H NMR (360 MHz, CDCl3) δ 2.45 (3H, s), 2.83 (3H, s), 6.71 (1H, s), 7.18 (1H, t, J=9.5 Hz), 7.30 (2H, d, J=7.8 Hz), 7.31 (1H, m), 7.59 (1H, m), 7.66 (1H, m), 7.82 (2H, d, J=8.4 Hz); MS (ES+) m/e 399 [M+H]+.

reactant | toluene-4-sulfonic acid 5-acetyl-1H-pyrazol-3-yl ester | 8.99 mmol, 2.52 g | C(C)(=O)C1=CC(=NN1)OS(=O)(=O)C1=CC=C(C=C1)C | C12H12N2O4S
reactant | 2-fluorobenzhydrazide | 9.90 mmol, 1.53 g | FC1=C(C(=O)NN)C=CC=C1 | C7H7FN2O
solvent | xylene | 110 ml | C=1(C(=CC=CC1)C)C | C8H10
product | Toluene-4-sulfonic acid 7-(2-fluorophenyl)-4-methylpyrazolo[1,5-d][1,2,4]triazin-2-yl ester | 3.40 g, 95% | FC1=C(C=CC=C1)C1=NN=C(C=2N1N=C(C2)OS(=O)(=O)C2=CC=C(C=C2)C)C | C19H15FN4O3S
